US05494666
c) t-Butyl (1S,4R,5R)-7-oxo-4-[2-oxo-3-(2-trimethylsilanylethoxy)-propyl]-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate
This compound was prepared in analogy to Example 1g) starting from t-butyl (1S,4R, 5R)-6-(3,4-dimethoxybenzyl)-7-oxo-4-[2-oxo-3-(2-trimethylsilanyl-ethoxy)-propyl]-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate (25.7 g; 48 mmol). Yield: 12.7 g (69%) as a colourless solid. M.p. 89°-91° C. (ethyl acetate).

reactant | t-butyl (1S,4R, 5R)-6-(3,4-dimethoxybenzyl)-7-oxo-4-[2-oxo-3-(2-trimethylsilanyl-ethoxy)-propyl]-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | 48 mmol, 25.7 g | COC=1C=C(CN2[C@@H]3[C@@H](CN([C@@H]3C2=O)C(=O)OC(C)(C)C)CC(COCC[Si](C)(C)C)=O)C=CC1OC | C27H42N2O7Si
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl (1S,4R,5R)-7-oxo-4-[2-oxo-3-(2-trimethylsilanylethoxy)-propyl]-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | O=C1N[C@@H]2[C@@H](CN([C@H]12)C(=O)OC(C)(C)C)CC(COCC[Si](C)(C)C)=O | C18H32N2O5Si
